US08017611B2
2-amino-5-methoxy-phenol hydrochloride (210 mg), N-ethyl-N-isopropyl-propan-2-amine (0.208 ml) and 2-hydroxypyridine-1-oxide (221 mg) were added to a stirred solution of 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylic acid (300 mg) dissolved in DMF (5 ml) under nitrogen. 3-(ethyliminomethyleneamino)-N,N-dimethyl-propan-1-amine hydrochloride (382 mg) was added portionwise to this mixture and the resulting solution was stirred at 25° C. for 48 hours. The reaction mixture was purified by preparative HPLC using a Waters X-Terra reverse-phase column and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford 2-amino-N-(2-hydroxy-4-methoxy-phenyl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxamide (190 mg). NMR Spectrum: (DMSOd6) 1.88-2.10 (m, 6H), 2.20 (s, 3H), 2.82-2.90 (m, 2H), 3.71 (s, 3H), 4.06-4.15 (m, 1H), 6.42 (dd, 1H), 6.49 (d, 1H), 6.99 (bs, 2H), 7.26 (d, 1H), 7.85 (s, 1H), 8.16 (s, 1H), 8.30 (d, 1H), 8.39 (d, 1H), 9.51 (bs, 1H), 9.58 (bs, 1H) Mass spectrum: M+H+ 423

reactant | 2-amino-5-methoxy-phenol hydrochloride | 210 mg | Cl.NC1=C(C=C(C=C1)OC)O
reactant | N-ethyl-N-isopropyl-propan-2-amine | 0.208 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-hydroxypyridine-1-oxide | 221 mg | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
reactant | 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylic acid | 300 mg | NC1=NC=C(C=C1C(=O)O)C=1C=NN(C1)C1CCN(CC1)C | C15H19N5O2
reactant | 3-(ethyliminomethyleneamino)-N,N-dimethyl-propan-1-amine hydrochloride | 382 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-amino-N-(2-hydroxy-4-methoxy-phenyl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxamide | 190 mg | NC1=NC=C(C=C1C(=O)NC1=C(C=C(C=C1)OC)O)C=1C=NN(C1)C1CCN(CC1)C | C22H26N6O3
